US08791267B2
Synthesis of 1-(3-Bromo-4-methoxy-benzyl)-1H-benzoimidazole (I-107, X═N).
A suspension of 1H-benzoimidazole (317 mg, 2.68 mmol) and potassium carbonate (495 mg, 3.58 mmol) in DMF (10 mL) was stirred at 45° C. for 1 h. To the heated suspension was added 2-Bromo-4-bromomethyl-1-methoxy-benzene (500 mg, 1.79 mmol) and the reaction was stirred at 45° C. for 4 h, cooled to room temperature and stirred at room temperature overnight. About half of the solvent was removed under vacuum, and ethyl acetate (30 mL) was added. The organic solution was washed with saturated aqueous ammonium chloride (3×30 mL), water (2×15 mL), and brine (15 mL). The organic extract was dried over anhydrous sodium sulfate and the solvent removed under vacuum to give crude product as an orange oil. The product was purified by flash silica gel column chromatography eluting with 5% methanol in dichloromethane to give the title compound (282.5 mg; 48% yield) and a second crop of 50% pure 2-Bromo-4-bromomethyl-1-methoxy-benzene (207.1 mg).

reactant | 1H-benzoimidazole | 2.68 mmol, 317 mg | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 3.58 mmol, 495 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Bromo-4-bromomethyl-1-methoxy-benzene | 1.79 mmol, 500 mg | BrC1=C(C=CC(=C1)CBr)OC | C8H8Br2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(3-Bromo-4-methoxy-benzyl)-1H-benzoimidazole | 282.5 mg, 48% yield | BrC=1C=C(CN2C=NC3=C2C=CC=C3)C=CC1OC | C15H13BrN2O
